US06689922B1
(4E,6Z)-7-[3-(3,4-bis-Hydroxymethylbenzyloxy)phenyl]-3-ethylocta-4,6-dien-3-ol
In a manner similar to Example 53(e), by reacting 106 mg (0.23 mmol) of dimethyl 4-[3-((1Z,3E)-5-ethyl-5-hydroxy-1-methylhepta-1,3-dienyl)phenoxymethyl]phthalate with 20 mg (0.94 mmol) of lithium borohydride, a colourless oil is obtained (m=50 mg; Y=55%).

reactant | dimethyl 4-[3-((1Z,3E)-5-ethyl-5-hydroxy-1-methylhepta-1,3-dienyl)phenoxymethyl]phthalate | 0.23 mmol, 106 mg | C(C)C(/C=C/C=C(/C)\C=1C=C(OCC=2C=C(C(C(=O)OC)=CC2)C(=O)OC)C=CC1)(CC)O | C27H32O6
reactant | lithium borohydride | 0.94 mmol, 20 mg | [BH4-].[Li+]
product | (4E,6Z)-7-[3-(3,4-bis-Hydroxymethylbenzyloxy)phenyl]-3-ethylocta-4,6-dien-3-ol | OCC=1C=C(COC=2C=C(C=CC2)\C(=C/C=C/C(CC)(O)CC)\C)C=CC1CO | C25H32O4
